US09145392B2
Step 1: tert-butyl 3-(2-(1-(6-amino-5-carbamoylpyrimidin-4-yl)piperidin-4-yl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-1-yl)pyrrolidine-1-carboxylate
A reaction mixture of 3-[2-[1-(6-amino-5-cyano-pyrimidin-4-yl)-piperidin-4-yl]-4-(4-fluoro-3-trifluoromethyl-phenyl)-imidazol-1-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (100.00 mg; 0.17 mmol; 1.00 eq.) and 2.0N NaOHaq (0.83 ml; 1.66 mmol; 10.00 eq.), in DMSO 8 ml was stirred at RT for 5 mins, added H2O2 (0.16 ml; 1.66 mmol; 10.00 eq.) stirred at RT for 2 hr. Purified the product by HPLC (basic), collected title compound 45 mg, yield 43%.

reactant | 3-[2-[1-(6-amino-5-cyano-pyrimidin-4-yl)-piperidin-4-yl]-4-(4-fluoro-3-trifluoromethyl-phenyl)-imidazol-1-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.17 mmol, 100.00 mg, 1.00 eq. | C(C)(C)(C)OC(=O)N1CC(CC1)N1C(=NC(=C1)C1=CC(=C(C=C1)F)C(F)(F)F)C1CCN(CC1)C1=NC=NC(=C1C#N)N | C29H32F4N8O2
reactant | H2O2 | 1.66 mmol, 0.16 ml, 10.00 eq. | OO | H2O2
solvent | DMSO | 8 ml | CS(=O)C | C2H6OS
product | tert-butyl 3-(2-(1-(6-amino-5-carbamoylpyrimidin-4-yl)piperidin-4-yl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-1-yl)pyrrolidine-1-carboxylate | 45 mg, yield 43% | NC1=C(C(=NC=N1)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C1CN(CC1)C(=O)OC(C)(C)C)C(N)=O | C29H34F4N8O3
